US08633212B2
4-methoxybenzylchloride (9.19 mL, 67.5 mmol) was added to a mixture of 6-hydroxy-1-indanone (10 g, 67.5 mmol) and potassium carbonate (14 g, 101 mmol) in 15 mL DMF. The mixture was reacted at RT for 14 h. The reaction mixture was diluted with water and extracted with DCM. The organic layer was separated and the solvents were removed by evaporation. The residue was dissolved in DCM and filtered through a plug of activated basic alumina. 6-(4-Methoxy-benzyloxy)-indan-1-one (18 g, 99%) was obtained after evaporation of the filtrate. The material was taken to the next step without further purification.

reactant | 4-methoxybenzylchloride | 67.5 mmol, 9.19 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | 6-hydroxy-1-indanone | 67.5 mmol, 10 g | OC1=CC=C2CCC(C2=C1)=O | C9H8O2
reactant | potassium carbonate | 101 mmol, 14 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-(4-Methoxy-benzyloxy)-indan-1-one | 18 g, 99% | COC1=CC=C(COC2=CC=C3CCC(C3=C2)=O)C=C1 | C17H16O3
